US07300951B2
C. 4,4,4-Trifluoro-2-(2,2,2-trifluoroethyl)-but-2-enoic acid ethyl ester
To a solution of 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ethyl ester (2.0 g, 4.65 mmol) in THF (5 mL) was added 1 mL of trifluoroacetaldehyde hydrate (tech.). The mixture was sealed in a pressure tube and heated at 100° C. for 3.5 h. After cooling to 23° C., the reaction mixture was eluted through a pad of silica gel (100 g) and Na2SO4 with Et2O (100 mL) to remove the by-products triphenylphosphine oxide and water. The eluent was distilled to remove Et2O and to afford the product as a colorless liquid (1.0 g, 86%).

reactant | 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ethyl ester | 4.65 mmol, 2.0 g | C(C)OC(C(CC(F)(F)F)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H22F3O2P
reactant | trifluoroacetaldehyde hydrate | 1 mL | O.FC(C=O)(F)F
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4,4,4-Trifluoro-2-(2,2,2-trifluoroethyl)-but-2-enoic acid ethyl ester | 1.0 g, 86% | C(C)OC(C(=CC(F)(F)F)CC(F)(F)F)=O | C8H8F6O2
